US07138414B2
a) 1-(4-fluoro-2-nitrophenyl)piperidine-4-carboxylic acid
The mixture consisting of 1.62 g of 2,5-difluoronitrobenzene, 1.9 g of piperidine-4-carboxylic acid and 10 ml of NMP was heated with stirring to 80° C. for 2 hours. After it had been allowed to cool, 30 ml of water were added and the mixture was made weakly acidic using 2N hydrochloric acid and stirred at RT. The precipitated solid was filtered off with suction and dried under reduced pressure.

reactant | 2,5-difluoronitrobenzene | 1.62 g | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
reactant | piperidine-4-carboxylic acid | 1.9 g | N1CCC(CC1)C(=O)O | C6H11NO2
reactant | NMP | 10 ml | CN1CCCC1=O | C5H9NO
reactant | hydrochloric acid | 2N | Cl | ClH
solvent | water | 30 ml | O | H2O
product | 1-(4-fluoro-2-nitrophenyl)piperidine-4-carboxylic acid | FC1=CC(=C(C=C1)N1CCC(CC1)C(=O)O)[N+](=O)[O-] | C12H13FN2O4
